US05576343
In 30 ml of tetrahydrofuran were dissolved 3.0 g of (S)-(+)-3-hydroxytetrahydrofuran, 6.6 g of methyl 2-(4-hydroxyphenyl)-2-oxoacetate and 8.90 g of triphenylphosphine. The thus prepared solution was mixed with 6.0 g of diethyl azodicarboxylate, and the mixture was stirred for 2 hours. After distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using chloroform as an eluant, thereby obtaining 4.60 g of methyl 2-[4-[((3R)-tetrahydro-3-furanyl)oxy]phenyl]-2-oxoacetate in an oily form.

reactant | (S)-(+)-3-hydroxytetrahydrofuran | 3.0 g | O[C@@H]1COCC1 | C4H8O2
reactant | methyl 2-(4-hydroxyphenyl)-2-oxoacetate | 6.6 g | OC1=CC=C(C=C1)C(C(=O)OC)=O | C9H8O4
reactant | triphenylphosphine | 8.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 6.0 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | methyl 2-[4-[((3R)-tetrahydro-3-furanyl)oxy]phenyl]-2-oxoacetate | 4.60 g | O1C[C@@H](CC1)OC1=CC=C(C=C1)C(C(=O)OC)=O | C13H14O5
